US04237019
Preparation of 1-amino-5-nitro-4-thiocyanatonaphthalene
The cold thiocyanogen solution was added to the stirred solution of 1-amino-5-nitronaphthalene, maintaining the temperature at 5°-15° C. The mixture was stirred a further one hour at 5°-15° C. and then made just alkaline (pH 7-8) by addition of concentrated ammonium hydroxide solution. The reaction mixture, after filtering from a small amount of insoluble material, was evaporated to dryness. The solid obtained was stirred with water, filtered, washed and dried.

reactant | thiocyanogen | C(#N)SSC#N | C2N2S2
reactant | 1-amino-5-nitronaphthalene | NC1=CC=CC2=C(C=CC=C12)[N+](=O)[O-] | C10H8N2O2
reactant | ammonium hydroxide | [OH-].[NH4+]
solvent | water | O | H2O
product | 1-amino-5-nitro-4-thiocyanatonaphthalene | NC1=CC=C(C2=C(C=CC=C12)[N+](=O)[O-])SC#N | C11H7N3O2S
